US09108984B2
Under nitrogen, a suspension of 7-(1-bromoethyl)-3-methyl-5H-[1,3]thiazolo[3,2-a]pyrimidin-5-one(13.2 g, 48.3 mmol) in acetonitrile (100 mL, 2000 mmol) was stirred until a clear solution was obtained. N-Bromosuccinimide (9.891 g, 55.57 mmol) was then added and the reaction mixture was stirred at 50° C. After 20 minutes, HPLC indicated that the reaction was complete. A solution of sodium sulfite (3.046 g, 24.16 mmol) in water (50 mL) was added and the mixture was stirred at room temperature for 20 minutes. Water (200 mL) was added slowly and the mixture stirred at room temperature for 30 minutes and then filtered. The solid was washed with water (100 mL×3) and dried to give 6-bromo-7-(1-bromoethyl)-3-methyl-5H-thiazolo[3,2-a]pyrimidin-5-one as an off-white solid (15.61 g, 91%). LCMS calculated for C9H9Br2N2OS (M+H)+: m/z 352.87, 354.87; Found: 352.65, 354.60. 1H NMR (400 MHz, DMSO-d6) δ 7.15 (q, J=1.3 Hz, 1H), 5.51 (q, J=6.7 Hz, 1H), 2.66 (d, J=1.2 Hz, 3H), 1.90 (d, J=6.7 Hz, 3H).

reactant | 7-(1-bromoethyl)-3-methyl-5H-[1,3]thiazolo[3,2-a]pyrimidin-5-one | 48.3 mmol, 13.2 g | BrC(C)C=1N=C2N(C(C1)=O)C(=CS2)C | C9H9BrN2OS
reactant | acetonitrile | 2000 mmol, 100 mL | C(C)#N | C2H3N
reactant | N-Bromosuccinimide | 55.57 mmol, 9.891 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | sodium sulfite | 24.16 mmol, 3.046 g | S(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 50 mL | O | H2O
solvent | Water | 200 mL | O | H2O
product | 6-bromo-7-(1-bromoethyl)-3-methyl-5H-thiazolo[3,2-a]pyrimidin-5-one | 15.61 g, 91% | BrC1=C(N=C2N(C1=O)C(=CS2)C)C(C)Br | C9H8Br2N2OS
